US08669271B2
4-[5-(2-Triisopropylsilanyl-oxazol-5-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid tert-butyl ester
The title compound is prepared from 4-(5-bromo-2,3-dihydro-benzofuran-2-yl)-piperidine-1-carboxylic acid tert-butyl ester and 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2-triisopropylsilanyl-oxazole following a procedure analogous to that described for Intermediate 15. LC (method 6): tR=1.62 min; Mass spectrum (ESI+): m/z=527 [M+H]+.

reactant | 4-(5-bromo-2,3-dihydro-benzofuran-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)Br | C18H24BrNO3
reactant | 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2-triisopropylsilanyl-oxazole | CC1(OB(OC1(C)C)C1=CN=C(O1)[Si](C(C)C)(C(C)C)C(C)C)C | C18H34BNO3Si
product | 4-[5-(2-Triisopropylsilanyl-oxazol-5-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)C2=CN=C(O2)[Si](C(C)C)(C(C)C)C(C)C | C30H46N2O4Si
